US05623081
2,4-Anhydro-D-lyxonic Acid Methyl Ester
A slurry of 1.01 g of 2,4-anhydro-3,5-bis-O-(phenylmethyl)-D-lyxonic acid methyl ester (prepared by the procedure in Tetrahedron Letters, Vol 31, No. 33, p4787, 1990), 0.253 g of palladium hydroxide on carbon, and 30 ml of methyl alcohol is hydrogenated under a balloon of hydrogen (1 atm.) for 2.5 hours. The mixture is filtered through diatomaceous earth, washed with ethyl acetate and ethyl alcohol, and concentrated in vacuo to give 0.460 g of the desired product.

reactant | 2,4-anhydro-3,5-bis-O-(phenylmethyl)-D-lyxonic acid methyl ester | 1.01 g | COC(=O)[C@@H]1[C@@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C20H22O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.253 g | [OH-].[OH-].[Pd+2]
solvent | methyl alcohol | 30 ml | CO | CH4O
product | 2,4-Anhydro-D-lyxonic Acid Methyl Ester | 0.460 g | COC(=O)[C@@H]1[C@@H](O)[C@H](O1)CO | C6H10O5
